US04613609
4-(4-Chlorophenyl)-3-butyn-1-ol
Dissolve 14.2 g (0.104 mole) of 1-chloro-4-ethynylbenzene in 35 ml dry THF and cool to -78° C. Add 49 ml butyl lithium to cold reaction mixture and allow to warm to room temperature for 2 hours. After 2 hours, cool to -78° C. and then add 5.8 ml (0.114 mole) ethylene oxide in 20 ml THF. Allow to warm to room temperature. Monitor progress of reaction with thin-layer chromatography on silica gel (methylene chloride). After 18 hours, add 150 ml saturated aqueous ammonium chloride solution and extract with 150 ml diethyl ether. Wash organic layer with 2×100 ml saturated aqueous sodium chloride solution. Dry organic layer with magnesium sulfate and then filter, and evaporate solvent to obtain the title compound.

reactant | 1-chloro-4-ethynylbenzene | 0.104 mole, 14.2 g | ClC1=CC=C(C=C1)C#C | C8H5Cl
reactant | butyl lithium | 49 ml | C(CCC)[Li]
reactant | ethylene oxide | 0.114 mole, 5.8 ml | C1CO1 | C2H4O
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(4-Chlorophenyl)-3-butyn-1-ol | ClC1=CC=C(C=C1)C#CCCO | C10H9ClO
